Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / metformin
 
Attending: ___
 
Chief Complaint:
R foot weakness 
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
Ms. ___ is a pleasant ___ woman with DM and HTN who 
presents with inability to lift her right foot for the last 3 
weeks. On ___, she was at work when she realized that she was 
unable to write like she normally does. Her handwriting was 
"like a third grader's," and she was unable to write the letters 
s, e, f, and r properly. She also thought her speech "wasn't 
what is usually is because I have the gift of gab" and was 
having trouble finding the words she wanted. She then noticed 
that her right leg felt funny below the knee, and she felt like 
it was numb and heavy. She was unable to lift it off the ground 
and was also unable to put her shoe on. Her arm and speech 
started feeling better, but her leg weakness still persisted. 
She was still able to walk but continues to complain of foot 
heaviness. Because of this, she went to her PCP to be evaluated. 
She was subsequently referred to the ED for further workup upon 
speaking with her PCP. EKG also showed inverted T waves in 1 and 
v6, which is a change from her last EKG. 

Also of note, she has had a 20 pound unintentional weight loss. 
She denies any fever, chills, nausea, vomiting, shortness of 
breath, cough, urinary incontinence, urinary frequency, or 
burning with urination. No rhinorrhea. 

 
Past Medical History:
HTN, empty sella syndrome, OA, diabetic neuropathy, HLD, DM2 
with nephropathy, obesity, diabetic retinopathy, senile nuclear 
cataract, CKD IV, DM2, Debridement surgery at ___ for non 
healing ulcers 

 
Social History:
___
Family History:
HTN, father had ___ disease, sister had stroke, no 
history of seizure 

 
Physical Exam:
ADMISSION PHYSICAL EXAM
==========================
Vitals:  T: ___  HR: 66  BP: 161/97  RR: 12  SaO2: 100% RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate 
history without difficulty. Attentive, able to name ___ backward 
without difficulty. Speech is fluent with full sentences, intact 
repetition, and intact verbal comprehension. Naming intact to 
high and low frequency objects. No paraphasias. No dysarthria. 
Normal prosody. Able to register 3 objects and recall ___ at 5 
minutes, ___ with multiple choice. +apraxia bilaterally to 
brushing teeth and combing hair. No evidence of hemineglect. No 
left-right confusion. Able to follow both midline and 
appendicular commands.

- Cranial Nerves: Pupils equal 2mm with cataracts. VF full to 
number counting. EOMI, no nystagmus. V1-V3 without deficits to 
light touch bilaterally. Asymmetric smile (R does not activate 
as much as L). Hearing intact to finger rub bilaterally. Palate 
elevation symmetric. SCM/Trapezius strength ___ on R, at least 
___ on L (?effort). Tongue midline.

- Motor: Normal bulk and tone. No drift. +postural and intention 
tremor, no asterixis.

   [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5-   5     5     5     5    5 
 R   5     5     5     5     5-   4+    5-    4-    0    0
  

- Reflexes: 
       [Bic] [Tri] [___] [Quad] [Gastroc]
    L   2+    2+     2+      0       0
    R   2+    2+     2+      0       0  
Plantar response flexor bilaterally 

- Sensory: No deficits to light touch or pinprick throughout (if 
anything, perhaps hyperesthesia? Flinched quite a bit on 
testing). No exinction to DSS.

- Coordination: No dysmetria with finger to nose testing 
bilaterally. 

- Gait: deferred given leg weakness

DISCHARGE PHYSICAL EXAM
==========================
98.1 98.5 142-193/76-105 ___ 18 99% RA
General:  NAD
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Obese, soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Speech is fluent 
with full sentences, intact repetition, and intact verbal 
comprehension. Naming intact to high and low frequency objects. 
No paraphasias. No dysarthria. Normal prosody. +apraxia 
bilaterally to brushing teeth and combing hair. No evidence of 
hemineglect. No left-right confusion. Able to follow both 
midline and appendicular commands.

- Cranial Nerves: Pupils equal 2mm with cataracts. VF full to 
number counting. EOMI, no nystagmus. V1-V3 without deficits to 
light touch bilaterally. Asymmetric smile (R does not activate 
as much as L). Hearing intact to finger rub bilaterally. Palate 
elevation symmetric. Tongue midline.

- Motor: Normal bulk and tone. No drift. +postural and intention 
tremor, no asterixis.

   [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5-   5     5     5     5    5 
 R   5     5     5     5     5-   4+    5-    4-    3    3
  
- Sensory: No deficits to light touch or pinprick throughout. No 
exinction to DSS.

- Coordination: No dysmetria with finger to nose testing 
bilaterally. No pronator drift. 

- Gait: deferred 
 
Pertinent Results:
==================
ADMISSION LABS
==================
___ 10:00PM BLOOD WBC-6.1 RBC-4.24 Hgb-11.5 Hct-36.7 MCV-87 
MCH-27.1 MCHC-31.3* RDW-13.2 RDWSD-40.9 Plt ___
___ 10:00PM BLOOD Neuts-35.1 ___ Monos-10.5 Eos-5.6 
Baso-0.5 Im ___ AbsNeut-2.13 AbsLymp-2.92 AbsMono-0.64 
AbsEos-0.34 AbsBaso-0.03
___ 10:00PM BLOOD ___ PTT-30.2 ___
___ 10:00PM BLOOD Plt ___
___ 10:00PM BLOOD Glucose-110* UreaN-36* Creat-2.3* Na-142 
K-3.7 Cl-105 HCO3-27 AnGap-14
___ 10:00PM BLOOD ALT-13 AST-14 AlkPhos-99 TotBili-0.2
___ 10:00PM BLOOD Lipase-70*
___ 10:00PM BLOOD cTropnT-<0.01
___ 10:00PM BLOOD Albumin-3.8 Cholest-277*
___ 10:00PM BLOOD %HbA1c-9.5* eAG-226*
___ 10:00PM BLOOD Triglyc-176* HDL-49 CHOL/HD-5.7 
LDLcalc-193*
___ 10:00PM BLOOD TSH-1.2
___ 10:00PM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
==================
OTHER LABS
==================
___ 10:20AM BLOOD WBC-5.4 RBC-4.49 Hgb-12.1 Hct-38.9 MCV-87 
MCH-26.9 MCHC-31.1* RDW-13.2 RDWSD-41.2 Plt ___
___ 10:20AM BLOOD Plt ___
___ 10:20AM BLOOD ___ PTT-31.0 ___
___ 10:20AM BLOOD Glucose-294* UreaN-32* Creat-2.1* Na-137 
K-3.8 Cl-101 HCO3-26 AnGap-14
___ 10:20AM BLOOD Calcium-9.2 Phos-2.8 Mg-1.9
==================
DISCHARGE LABS
==================
___ 07:00AM BLOOD WBC-5.9 RBC-5.04 Hgb-13.6 Hct-43.5 MCV-86 
MCH-27.0 MCHC-31.3* RDW-13.3 RDWSD-41.3 Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD Glucose-160* UreaN-34* Creat-2.2* Na-140 
K-4.2 Cl-100 HCO3-26 AnGap-18
___ 07:00AM BLOOD Calcium-10.2 Phos-3.7 Mg-2.0
==================
IMAGING 
==================
NCHCT ___: 
1. Acute to subacute infarct involving the left frontal lobe.  
No acute hemorrhage or mass effect. 
2. Chronic right basal ganglia infarct and age-related 
involutional changes. 

MRI/MRA head and neck ___: IMPRESSION:  
1. Focus of restricted diffusion in the left frontal lobe with 
associated FLAIR hyperintense signal, near the vertex is 
compatible with an late acute infarction.  Additional FLAIR and 
diffusion-weighted hyperintense signal of the left medial 
frontal lobe is compatible with subacute infarcts. 
2. There is short-segment high-grade stenosis of the left A2, as 
well as stenosis of the bilateral A2-A3 junction.  Multifocal 
narrowing of the distal MCA branches, basilar and posterior 
cerebral arteries are identified.  These may be secondary to 
atherosclerotic disease. 
3. Attenuation of signal within the left vertebral artery, 
particularly along the V4 segment may be secondary high-grade 
stenosis/occlusion although artifact from slow flow secondary to 
a congenitally diminutive vessel is a consideration.  When 
clinically feasible, contrast-enhanced study is recommend for 
further evaluation.  No other abnormalities are seen within the 
vessels of the neck. 
4. Unchanged likely arachnoid cyst within the sella turcica, 
compared to the prior MRI from ___. 
5. Changes secondary to chronic infarction within the right 
basal ganglia. 
  
CXR ___: Cardiomegaly. No acute process. 

ECHO ___ 
IMPRESSION: Moderate symmetric left ventricular hypertrophy with 
preserved regional and global biventricular systolic function. 
Dilated ascending aorta. No valvular pathology or pathologic 
flow identified. No definite structural cardiac source of 
embolism identified.

IMPRESSION: Suboptimal image quality. 
The patient has a mildly dilated ascending aorta. Based on ___ 
ACCF/AHA Thoracic Aortic Guidelines, if not previously known or 
a change, a follow-up echocardiogram is suggested in ___ year; if 
previously known and stable, a follow-up echocardiogram is 
suggested in ___ years.  
 
Brief Hospital Course:
Ms. ___ is a ___ yo woman with multiple vascular risk factors 
(HTN, DM, HLD) who presented with 3 week history of RLE weakness 
that was originally accompanied by RUE weakness and word finding 
difficulties. RUE weakness and word finding difficulties had 
resolved, but exam showed apraxia and UMN pattern weakness in 
her RLE. NCHCT showed a hypodensity in the L frontal lobe and 
chronic R basal ganglia infarct. 

# R lower extremity weakness likely ___ ischemic stroke: We 
followed up her MRI/MRA head and neck without contrast, which 
showed consistent findings with the NCHCT. 

We worked her up for stroke risk factors, which showed HbA1c 
9.5%, total cholesterol 277, LDL 193. Her blood pressures were 
high throughout the hospital stay with SBP up to 190 despite 
many BP medications(amlodipine 10 mg daily, lisinopril 40 mg, 
metoprolol 50 BID , and torsemide 40 daily). Her ECHO did not 
show PFO (did show mildly dilated ascending aorta, and should 
have repeat ECHO in one year.

Given her cardiovascular risk factors, we started aspirin 81 mg 
qday, and then we also added on Plavix before discharge. In 
terms of her diabetes, she reported poor sugar control with FSG 
ranging from ___. We consulted ___, who met with her and 
recommended changes to insulin regimen as below. She was already 
on atorvastatin 80 mg q day, and would recommend dietary changes 
and close PCP monitoring of lipid levels. In terms of her 
hypertension, we did not change any medications, but recommend 
outpatient titration to SBP 140-180 from a neurological 
standpoint.

# Hypertension: Given that patient was 3 weeks out from initial 
event, we restarted home BP medications. We continued home 
lisinopril 40mg po qd, metoprolol 50mg po BID, torsemide 40mg po 
am, amlodipine 10mg po qd. We also restarted clonidine patch.
In terms of her hypertension, we did not change any medications, 
but recommend outpatient titration to SBP 140-180 from a 
neurological standpoint.

# DM2 with retinopathy, nephropathy, and neuropathy: We halved 
home lantus to 40 u qam and 23u qpm just in case pt was not 
compliant with home insulin. We also halved home Humalog to 8u 
TID AC. Her HbA1c was 9.5% suggesting poor control of blood 
sugars. Her FSG ranged from 100-230's. We consulted ___, who 
recommended the following:
-  Continue Lantus 40units in the AM, 23Units QHS
-  Change scheduled humalog with meals to 8 units with meals 
-  Change the correction scale insulin to humalog (and not 
regular) but keep the same intervals and dosing. 
- Follow up at ___ 

We also decreased home gabapentin 600mg TID to BID for renal 
dosing 

# CKD likely ___ diabetes and HTN: FENA 5.2%. We avoided 
nephrotoxic agents.

TRANSITIONAL ISSUES:
- Hypertensive to 140-193 during this admission. Neurologically, 
we recommend the systolic blood pressure goal to be 140-180. BP 
meds should be titrated on an outpatient basis with this goal in 
mind
- Patient should start taking Aspirin and Plavix daily
- Mildly dilated ascending aorta: please schedule up follow up 
ECHO in ___ year
- HbA1c 9.5%. Seen by ___ Diabetes, who recommended:
---Continue Lantus 40units in the AM, 23Units QHS
---Change scheduled humalog with meals to 8 units with meals. 
---Hold sliding scale to simplify. 
---Pt should follow up with ___ for close diabetes care given 
difficult to control glucose
- ___ for further strengthening at home 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Gabapentin 600 mg PO TID 
4. Lisinopril 40 mg PO DAILY 
5. Torsemide 40 mg PO DAILY 
6. Clonidine Patch 0.3 mg/24 hr 1 PTCH TD QFRI 
7. Vitamin D ___ UNIT PO DAILY 
8. Glargine 80 Units Breakfast
Glargine 45 Units Dinner
Humalog 15 Units Breakfast
Humalog 15 Units Lunch
Humalog 15 Units Dinner
9. Metoprolol Succinate XL 100 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Clonidine Patch 0.3 mg/24 hr 1 PTCH TD QFRI 
4. Gabapentin 600 mg PO TID 
RX *gabapentin 600 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0
5. Lisinopril 40 mg PO DAILY 
6. Torsemide 40 mg PO DAILY 
7. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*20 
Tablet Refills:*0
8. Aspirin 81 mg PO DAILY 
9. Metoprolol Succinate XL 100 mg PO DAILY 
10. Vitamin D ___ UNIT PO DAILY 
11. Glargine 40 Units Breakfast
Glargine 23 Units Bedtime
Humalog 8 Units Breakfast
Humalog 8 Units Lunch
Humalog 8 Units Dinner

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Subacute Left ACA Ischemic Stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted because you had not been able to lift your 
right foot for at least 3 weeks, had difficulty with your right 
arm, were having difficulty finding words, and also noticed you 
were unable to write normally. You found that the arm strength 
was improving and could find your words more easily, but that 
the right foot continued to be weak. 

We did imaging studies of your brain, which showed that you had 
a stroke in the front part of your brain. 

A stroke is a condition where a blood vessel providing oxygen 
and nutrients to the brain is blocked by a clot. The brain is 
the part of your body that controls and directs all the other 
parts of your body, so damage to the brain from being deprived 
of its blood supply can result in a variety of symptoms. 

We looked at your risk factors for experiencing a stroke. We 
found that these risk factors included your high blood pressure, 
diabetes, and high cholesterol. 

It will be very important to try to control your blood pressure, 
your blood sugars, and your cholesterol levels in order to 
prevent future strokes.

We had the diabetes doctors from ___ to you about 
strategies to gain better control over your sugars. They 
recommended some changes to your insulin regimen. You should 
continue Lantus 40units in the morning, 23Units in the evening. 
You should CHANGE scheduled humalog with meals to 8 units with 
breakfast and lunch, but decrease dinner dose to 6 units.

During your hospitalization, your blood pressure was high. 
Because of your recent stroke, we did not add any new 
medications, but you should follow up with your primary care 
doctor about any further changes. 

Your cholesterol was also noted to be very high. The normal 
cholesterol level is 100 or less. Your cholesterol (LDL) is 193. 
You should continue to take atorvastatin 80 mg every day and eat 
a healthy diet to control your cholesterol levels. 

We have also started you on Aspirin and Plavix, two medications 
which you should continue taking daily to help decrease the risk 
of clot or stroke. 

If you ever develop any new similar symptoms like weakness in a 
part of your body, difficulty findings words or confused speech, 
please seek medical attention IMMEDIATELY instead of waiting for 
days or weeks. 

It was a pleasure taking care of you. We wish you all the best!

Sincerely,
Your ___ Neurology team 

 
Followup Instructions:
___